US06953790B2
N-{(3R,6S)-6-(2,3-Difluorophenyl)-1-[2-(methylsulfinyl)ethyl]-2-oxoazepan-3-yl}-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide
Triethylamine (0.010 mL, 0.027 mmol) was added to a solution of (3R,6S)-3-amino-6-(2,3-difluorophenyl)-1-[2-(methylsulfinyl)ethyl]azepan-2-one (8.9 mg, 0.027 mmol) and 4-nitrophenyl chloroformate (5.4 mg, 0.027 mmol) in tetrahydrofuran (0.700 mL) at 0° C. After 45 min, 2-oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride (7.9 mg, 0.027 mmol) and triethylamine (0.040 mL, 0.108 mmol) were added and the mixture allowed to warm to ambient temperature. After 16 h, the mixture was concentrated. Purification by reverse phase HPLC (C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound. MS 575 (M+1).

reactant | Triethylamine | 0.027 mmol, 0.010 mL | C(C)N(CC)CC | C6H15N
reactant | (3R,6S)-3-amino-6-(2,3-difluorophenyl)-1-[2-(methylsulfinyl)ethyl]azepan-2-one | 0.027 mmol, 8.9 mg | N[C@H]1C(N(C[C@@H](CC1)C1=C(C(=CC=C1)F)F)CCS(=O)C)=O | C15H20F2N2O2S
reactant | 4-nitrophenyl chloroformate | 0.027 mmol, 5.4 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 2-oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride | 0.027 mmol, 7.9 mg | Cl.Cl.O=C1N(C=2C(=NC=CC2)N1)C1CCNCC1
reactant | triethylamine | 0.108 mmol, 0.040 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 0.700 mL | O1CCCC1 | C4H8O
product | N-{(3R,6S)-6-(2,3-Difluorophenyl)-1-[2-(methylsulfinyl)ethyl]-2-oxoazepan-3-yl}-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(N(C1)CCS(=O)C)=O)NC(=O)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C27H32F2N6O4S
